US09034880B2
LAH (0.022 g, 0.58 mmol) was charged in dry THF (3 mL) and cooled to 0 deg C., 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(4-methylpiperazin-1-yl)ethanone (0.05 g, 0.147 mmol) was added to it portion wise. The reaction mixture was refluxed for 4 h. The reaction mixture was cooled to 0 deg C. and quenched with sat. Na2SO4. The solid formed was filtered through celite, washed with THF, dried over Na2SO4 and concentrated under reduced pressure to obtain 11 mg of 2,8-dimethyl-5-(2-(4-methylpiperazin-1-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole as TFA salt after purification by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL).

reactant | LAH | 0.58 mmol, 0.022 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-(4-methylpiperazin-1-yl)ethanone | 0.147 mmol, 0.05 g | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(=O)N2CCN(CC2)C)CC1 | C20H28N4O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2,8-dimethyl-5-(2-(4-methylpiperazin-1-yl)ethyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 11 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CCN2CCN(CC2)C)CC1 | C20H30N4
